US08124606B2
Compound 84: 4-benzyl-7-((4-(4-chlorophenyl)piperazin-1-yl)methyl)-3,4-dihydropyrido[2,3-b]pyrazin-2(1H)-one
4-benzyl-7-(hydroxymethyl)-3,4-dihydropyrido[2,3-b]pyrazin-2(1H)-one (100 mg, 0.37 mmol) was suspended in propionitrile (1 mL) and (cyanomethyl)trimethylphosphonium iodide (123.0 mg, 0.51 mmol) was added followed by N-ethyl-N-isopropylpropan-2-amine (180 ul, 1.03 mmol). To the stirred mixture was then added 1-(4-chlorophenyl)piperazine hydrochloride (104.5 mg, 0.45 mmol). The reaction was heated to 90° C. with stirring for 2 h. The reaction was then cooled to room temperature and diluted with water (3 mL) and filtered. The solids were collected and refluxed in ethanol (5 mL) for 1 h. The suspension was cooled back to room temperature and filtered. The precipitate was filtered off and dried in vacuum to afford the title compound (66.6 mg, 40%) as a white solid. 1H NMR (DMSO-d6) δ (ppm): 10.57 (s, 1H), 7.64 (d, J=1.8 Hz, 1H), 7.33 (d, J=4.5 Hz, 4H), 7.25-7.30 (m, 1H), 7.19-7.24 (m, 2H), 7.01 (d, J=1.8 Hz, 1H), 6.92 (d, J=9.1 Hz, 2H), 4.72 (s, 2H), 3.86 (s, 2H), 3.36 (s, 2H), 3.07-3.15 (m, 4H), 2.44-2.49 (m, 4H). [M+H] calc'd for C25H26ClN5O, 448. found, 448.

reactant | 4-benzyl-7-(hydroxymethyl)-3,4-dihydropyrido[2,3-b]pyrazin-2(1H)-one | 0.37 mmol, 100 mg | C(C1=CC=CC=C1)N1C2=C(NC(C1)=O)C=C(C=N2)CO | C15H15N3O2
reactant | (cyanomethyl)trimethylphosphonium iodide | 0.51 mmol, 123.0 mg | [I-].C(#N)C[P+](C)(C)C
reactant | N-ethyl-N-isopropylpropan-2-amine | 1.03 mmol, 180 ul | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 1-(4-chlorophenyl)piperazine hydrochloride | 0.45 mmol, 104.5 mg | Cl.ClC1=CC=C(C=C1)N1CCNCC1
solvent | propionitrile | 1 mL | C(CC)#N | C3H5N
solvent | water | 3 mL | O | H2O
product | 4-benzyl-7-((4-(4-chlorophenyl)piperazin-1-yl)methyl)-3,4-dihydropyrido[2,3-b]pyrazin-2(1H)-one | 66.6 mg, 40% | C(C1=CC=CC=C1)N1C2=C(NC(C1)=O)C=C(C=N2)CN2CCN(CC2)C2=CC=C(C=C2)Cl | C25H26ClN5O
